US05300647
Di-(1-phenylcarbamoyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
Phenyl isocyanate (9.5 g, 80 mmol) is added over 5 minutes to a suspension of 20.0 g (39 mmol) of di-(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate in 125 ml of dichloromethane. The resulting solution is refluxed for 30 minutes and then evaporated to obtain a solid. The crude solid is briefly refluxed in methanol, filtered off, and recrystallized from 2-propanol: dichloromethane to give 22.2g (76% yield) of white solid, m.p. 159-61° C.(dec).

reactant | Phenyl isocyanate | 80 mmol, 9.5 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | di-(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 39 mmol, 20.0 g | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | Di-(1-phenylcarbamoyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | 22.2g, 76% yield | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OC(NC1=CC=CC=C1)=O)(C)C)(=O)OC1CC(N(C(C1)(C)C)OC(NC1=CC=CC=C1)=O)(C)C | C42H62N4O8
